US08957105B2
NBS (4.76 g, 1 equiv) was added portionwise to a solution of ethyl 3-(1-(4-cyano-2-methylphenyl)-1H-pyrrol-2-yl)propanoate in DMF at 0° C. during 45 min. After addition, the mixture was stirred at room temperature for 30 min, then poured into water, and extracted with ethyl acetate for three times. The combined organic layers were washed with brine, dried over Na2SO4, concentrated and purified by silica gel column chromatography (PE:EA=15:1) to afford ethyl 3-(5-bromo-1-(4-cyano-2-methylphenyl)-1H-pyrrol-2-yl)propanoate as a white solid.

reactant | NBS | 4.76 g, 1 equiv | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl 3-(1-(4-cyano-2-methylphenyl)-1H-pyrrol-2-yl)propanoate | C(#N)C1=CC(=C(C=C1)N1C(=CC=C1)CCC(=O)OCC)C | C17H18N2O2
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 3-(5-bromo-1-(4-cyano-2-methylphenyl)-1H-pyrrol-2-yl)propanoate | BrC1=CC=C(N1C1=C(C=C(C=C1)C#N)C)CCC(=O)OCC | C17H17BrN2O2
